US08975282B2
Step 1) N-(3-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a suspension of 4-amino-2-fluorophenol (2.54 g, 20 mmol) and 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid (4.74 g, 20.4 mmol) in DCM (60 mL) were added EDCI (4.6 g, 24 mmol) and HOAT (0.54 g, 4 mmol). The reaction was stirred at 45° C. for 12 hours, then cool to rt, quenched with H2O (10 mL), and stirred for another 4 hours. The solid was obtained by filtration and washed with DCM (20 mL×3), then dried at 60° C. in vacuo for 12 hours to give the title compound as a pale yellow solid (6.37 g, 93.4%).

reactant | 4-amino-2-fluorophenol | 20 mmol, 2.54 g | NC1=CC(=C(C=C1)O)F | C6H6FNO
reactant | 1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxylic acid | 20.4 mmol, 4.74 g | CN1N(C(C(=C1C)C(=O)O)=O)C1=CC=CC=C1 | C12H12N2O3
reactant | EDCI | 24 mmol, 4.6 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOAT | 4 mmol, 0.54 g | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | N-(3-fluoro-4-hydroxyphenyl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 6.37 g, 93.4% | FC=1C=C(C=CC1O)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C18H16FN3O3
